*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/2.20e-04[uF]/100[V]
* Murata P/N :GRM155R72A221MA01
* Property : C = 2.20e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R72A221MA01 Port1 Port2
C01 Port1 N01 2.13e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 1.55e-10
R03 N02 N03 5.42e-01
C04 N03 N04 1.49e-08
R04 N03 N04 1.09e+05
C05 N04 N05 5.81e-08
R05 N04 N05 2.62e+03
C06 N05 N06 3.30e-08
R06 N05 N06 7.23e+02
C07 N06 N07 2.58e-08
R07 N06 N07 8.49e+01
C08 N07 N08 1.66e-08
R08 N07 N08 1.26e+01
C09 N08 N09 8.09e-09
R09 N08 N09 1.95e+00
C10 N09 N10 2.62e-09
R10 N09 N10 1.01e+00
C11 N10 N11 1.47e-09
R11 N10 N11 4.55e-01
C12 N11 N12 6.67e-11
L12 N11 N12 3.76e-11
R12 N11 N12 7.93e-01
C13 N12 Port2 1.93e-12
L13 N12 Port2 1.74e-10
R13 N12 Port2 1.67e+01
.ENDS GRM155R72A221MA01
